US07855297B2
By the reaction and treatment in the same manner as in Example 1 using 1,2,3,4-tetrahydronaphthalene-1-carboxylic acid (1.0 g) and [(4-chlorophenyl)methyl](4-isopropylphenyl)amine (1.3 g) as starting materials, N-[(4-chlorophenyl) methyl]-N-(4-isopropylphenyl)-1,2,3,4-tetrahydronaphthalene-1-carboxamide (0.1 g) was obtained. melting point: 122-123° C.

reactant | 1,2,3,4-tetrahydronaphthalene-1-carboxylic acid | 1.0 g | C1(CCCC2=CC=CC=C12)C(=O)O | C11H12O2
reactant | [(4-chlorophenyl)methyl](4-isopropylphenyl)amine | 1.3 g | ClC1=CC=C(C=C1)CNC1=CC=C(C=C1)C(C)C | C16H18ClN
product | N-[(4-chlorophenyl) methyl]-N-(4-isopropylphenyl)-1,2,3,4-tetrahydronaphthalene-1-carboxamide | 0.1 g | ClC1=CC=C(C=C1)CN(C(=O)C1CCCC2=CC=CC=C12)C1=CC=C(C=C1)C(C)C | C27H28ClNO
